US05332729
0.8 g of sodium is dissolved in 60 ml of absolute ethanol, and 12 g of molecular sieve (4Å) and 2.63 g of N-hydroxyguanidine are added. The batch is stirred for 1 hour at room temperature and then 1.14 g of 1-(4-carboxyphenyl)ethylamine are added. The resulting turbid yellowish solution is heated under reflux for 2 hours after which time it can be established by thin layer chromatography that the reaction is complete. The batch is filtered and the solvent is removed under reduced pressure. The residue is digested in water and cooled in an ice bath, and then the precipitate is isolated by filtration, washed with a small amount of water and dried under reduced pressure to give 1-[4-(3-amino-1,2,4-oxadiazol-5-yl)phenyl]ethylamine having a melting point of 150°-151°.

reactant | sodium | 0.8 g | [Na] | Na
reactant | N-hydroxyguanidine | 2.63 g | ONC(=N)N | CH5N3O
reactant | 1-(4-carboxyphenyl)ethylamine | 1.14 g | C(=O)(O)C1=CC=C(C=C1)C(C)N | C9H11NO2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-[4-(3-amino-1,2,4-oxadiazol-5-yl)phenyl]ethylamine | NC1=NOC(=N1)C1=CC=C(C=C1)C(C)N | C10H12N4O
